US05061717
4-(2-Bromoethyl)benzaldehyde
To a solution of (2-bromoethyl)benzene (100 mmol, 18.5 g) in methylene chloride (185 ml) at 0° C. was added dropwise titanium tetrachloride (200 mmol, 22 ml). The mixture was stirred for 10 minutes and alpha,alpha-dichloromethyl methyl ether (100 mmol, 9 ml) was added dropwise. The reaction mixture was stirred at room temperature for 1 hour and poured into saturated NaHCO3 (1 liter). Ethyl acetate (750 ml) was added and the solution was filtered through diatomaceous earth, the organic layer separated, dried (Na2SO4) and solvent removed in vacuo. The residue was triturated with hexane to afford 8.7 g of title product; m.p. 49°-52° C.

reactant | (2-bromoethyl)benzene | 100 mmol, 18.5 g | BrCCC1=CC=CC=C1 | C8H9Br
reactant | alpha,alpha-dichloromethyl methyl ether | 100 mmol, 9 ml | COC(Cl)Cl | C2H4Cl2O
reactant | NaHCO3 | 1 liter | C(=O)(O)[O-].[Na+]
reactant | Ethyl acetate | 750 ml | C(C)(=O)OCC | C4H8O2
solvent | methylene chloride | 185 ml | C(Cl)Cl | CH2Cl2
catalyst | titanium tetrachloride | 200 mmol, 22 ml | [Ti](Cl)(Cl)(Cl)Cl
product | 4-(2-Bromoethyl)benzaldehyde | 8.7 g | BrCCC1=CC=C(C=O)C=C1 | C9H9BrO
